US09446034B2
A solution of 2-({5-chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzoic acid (55 mg, 0.148 mmol), HOBT (22.65 mg, 0.148 mmol) and EDC (28.4 mg, 0.148 mmol) in N,N-dimethylformamide (DMF) (5 mL) was stirred under nitrogen at room temp for 30 minutes. To this solution was added N-methylhydroxylamine (12.35 mg, 0.148 mmol) and the solution was stirred for another 15 minutes. The reaction mixture was cooled to 5° C. and DIEA (0.052 mL, 0.296 mmol) was added dropwise. After addition, the reaction mixture was stirred at room temperature overnight. The reaction mixture was purified using preparative HPLC (0.1% formic acid, 5 to 95% water: acetonitrile). Fractions were combined and evaporated. 2-({5-Chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)-N-hydroxy-N-methylbenzamide (16 mg, 0.034 mmol, 23.05% yield) isolated as a white solid. LCMS (M+H)+=401.0 (M+H); 1H NMR (400 MHz, MeOD) ppm 1.30 (t, J=7.20 Hz, 3 H) 2.19 (s, 3 H) 3.37 (d, J=1.52 Hz, 3 H) 3.96 (q, J=7.07 Hz, 2 H) 5.95 (s, 1 H) 6.32 (s, 1 H) 7.21-7.33 (m, 1 H) 7.42-7.53 (m, 2 H) 7.56 (d, J=7.33 Hz, 1 H) 7.86 (s, 1 H).

reactant | 2-({5-chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)benzoic acid | 0.148 mmol, 55 mg | ClC=1C(=CC(=NC1)NC1=CC(=NN1CC)C)NC1=C(C(=O)O)C=CC=C1 | C18H18ClN5O2
reactant | HOBT | 0.148 mmol, 22.65 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.148 mmol, 28.4 mg
reactant | N-methylhydroxylamine | 0.148 mmol, 12.35 mg | CNO | CH5NO
reactant | DIEA | 0.296 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-({5-Chloro-2-[(1-ethyl-3-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)-N-hydroxy-N-methylbenzamide | 0.034 mmol, 16 mg, 23.05% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1CC)C)NC1=C(C(=O)N(C)O)C=CC=C1 | C19H21ClN6O2
